US05017211
A mixture of 1.98 g of N-methoxy-N-methyl-2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzamide, 1.5 ml of phosphorus oxychloride and 1.2 ml of pyridine in 10 ml of toluene is stirred at 80° C. for 3.5 hours. The mixture is then treated with 50 ml of ice-water and extracted three times with 80 ml of ethyl acetate each time. The combined organic phases are washed to neutrality, dried over anhydrous sodium sulphate and treated with 200 ml of n-hexane, and the mixture is filtered through 20 g of silica gel. The mixture is then concentrated and the product is left to crystallize out. In this manner there is obtained N-methoxy-N-methyl-2-chloro-5-[2-chloro-4-oxo-6-trifluoromethyl-3(4H)-pyrimidinyl]-4-fluorobenzamide, m.p. 183° C.;

reactant | N-methoxy-N-methyl-2-chloro-5-[3,6-dihydro-2,6-dioxo-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzamide | 1.98 g | CON(C(C1=C(C=C(C(=C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F)Cl)=O)C | C14H10ClF4N3O4
reactant | phosphorus oxychloride | 1.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | N-methoxy-N-methyl-2-chloro-5-[2-chloro-4-oxo-6-trifluoromethyl-3(4H)-pyrimidinyl]-4-fluorobenzamide | CON(C(C1=C(C=C(C(=C1)N1C(=NC(=CC1=O)C(F)(F)F)Cl)F)Cl)=O)C | C14H9Cl2F4N3O3
